US05502075
A solution of 20 g of trans-1,2-cyclobutanedicarboxylic acid dichloride in 40 ml of tetrahydrofuran is carefully instilled at -15° C. in a solution of 8.4 g of sodium borohydride in 280 ml of ethyl alcohol. After completion of the gas generation it is stirred for 30 minutes at -15° C. and then 150 ml of water is slowly instilled. It is stirred for 30 minutes at 22° C. and then diluted with 1.5 liter of diethyl ether. It is shaken twice with water, twice with semiconcentrated sodium chloride solution, dried on anhydrous sodium sulfate and concentrated by evaporation in a vacuum. The residue is purified by chromatography on silica gel. With ethyl acetate, 9.5 g of trans-1,2-dihydroxymethylcyclopentane is obtained as colorless liquid.

reactant | trans-1,2-cyclobutanedicarboxylic acid dichloride | 20 g | [C@@H]1([C@@H](CC1)C(=O)Cl)C(=O)Cl | C6H6Cl2O2
reactant | sodium borohydride | 8.4 g | [BH4-].[Na+]
reactant | water | 150 ml | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl alcohol | 280 ml | C(C)O | C2H6O
solvent | diethyl ether | 1.5 liter | C(C)OCC | C4H10O
product | trans-1,2-dihydroxymethylcyclopentane | 9.5 g | OC[C@H]1[C@@H](CCC1)CO | C7H14O2
